US04804661
A solution of 1-[2-(4-chlorophenyl)-ethyl]-4-(3,5-diacetoxybenzoyl)-piperazine in 500 ml of methanol stirred with 285 ml of 1N NaOH for 16 hours at 20°. The reaction mixture is diluted with H2O and the pH is adjusted to 6 with acetic acid. The resulting oily precipitate is stirred with CH2Cl2 and filtered with suction. Crystallisation from ethanol yields 1-[2-(4-chlorophenyl)-ethyl]-4-(3,5-dihydroxybenzoyl)piperazine having a melting point of 217°-221°.

reactant | 1-[2-(4-chlorophenyl)-ethyl]-4-(3,5-diacetoxybenzoyl)-piperazine | ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=CC(=CC(=C1)OC(C)=O)OC(C)=O)=O | C23H25ClN2O5
reactant | NaOH | 1N, 285 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | methanol | 500 ml | CO | CH4O
solvent | H2O | O | H2O
product | 1-[2-(4-chlorophenyl)-ethyl]-4-(3,5-dihydroxybenzoyl)piperazine | ClC1=CC=C(C=C1)CCN1CCN(CC1)C(C1=CC(=CC(=C1)O)O)=O | C19H21ClN2O3
